US07919628B2
A solution of 96 mg 2-{[1-(4-bromo-benzyloxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester in 1 ml dry THF was treated with 0.2 ml of 2 M aqueous sodium hydroxide. After 4 h at 60° C. the reaction was concentrated, the residue was taken up in 3 ml of water, treated with 2 M hydrochloric acid, and the resulting precipitate was collected by filtration and purified by RP-HPLC to yield 70 mg 2-{[1-(4-bromo-benzyloxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid.

reactant | 2-{[1-(4-bromo-benzyloxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | 96 mg | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)OCC1=CC=C(C=C1)Br)=O | C23H22BrNO4
reactant | sodium hydroxide | 2 M, 0.2 ml | [OH-].[Na+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2-{[1-(4-bromo-benzyloxy)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid | 70 mg | BrC1=CC=C(COC2=C(C=CC3=CC=CC=C23)C(=O)NC(C(=O)O)(C)C)C=C1 | C22H20BrNO4
